US06353006B1
2-Phenyl-2-hydroxyethylamine was reacted with isobutyraldehyde according to Method B4c, Step 1 to give 2isopropyl-5-phenyl-1,3-oxazolidine. The oxazolidine was reduced according to Method B4c, Step 2 to give N-isobutyl-2-phenyl-2-hydroxyethylamine. The ethanolamine was reacted with SOCl2 followed by 2-chloro-4-(trifluoromethyl)phenyl isothiocyanate according to Method C2f to afford 2-(2-chloro-4-(trifluoromethyl)phenylimino)-3-isobutyl-5-phenyl-1,3-thiazolidine HCl salt.

reactant | 2-Phenyl-2-hydroxyethylamine | C1(=CC=CC=C1)C(CN)O | C8H11NO
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
product | 2isopropyl-5-phenyl-1,3-oxazolidine | C(C)(C)C1OC(CN1)C1=CC=CC=C1 | C12H17NO
